US08871756B2
N-(2-Chloro-6-methylquinazolin-4-yl)-2,2-difluoropropane-1,3-diamine
To a solution of 2,2-difluoropropane-1,3-diamine (1.1 g, 10 mmol) and triethylamine (1.4 mL, 10 mol) in dichloromethane (15 mL) was added a solution of 2,4-dichloro-6-methylquinazoline (500 mg, 2.36 mmol) in dichloromethane (5 mL) dropwise. After being stirred at room temperature overnight, the resulting mixture was poured into water (50 mL) and extracted with dichloromethane (50 mL×2). The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 10-25% methanol in dichloromethane) to afford 41.8 mg of the desired product as a white solid (yield was 62%). MS obsd. (ESI+) [(M+H)+] 287.

reactant | 2,2-difluoropropane-1,3-diamine | 10 mmol, 1.1 g | FC(CN)(CN)F | C3H8F2N2
reactant | triethylamine | 10 mol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-6-methylquinazoline | 2.36 mmol, 500 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-Chloro-6-methylquinazolin-4-yl)-2,2-difluoropropane-1,3-diamine | 41.8 mg, yield was 62% | ClC1=NC2=CC=C(C=C2C(=N1)NCC(CN)(F)F)C | C12H13ClF2N4
